US06225330B1
N2-{[4-(Ethylamino)cyclohexyl]methyl}-4,5-dihydrobenzo-[2,3]oxepino[4,5-d][1,3]thiazol-2-amine:
To a stirred solution of N1-{4-[(4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-ylamino)methyl]cyclohexyl}acetamide (0.380 g, 1.02 mmol) in anhydrous THF (4 ml) was added 1M BH3 in THF (5.0 ml, 5.0 mmol). The solution was stirred at room temperature overnight. 4N HCl (12 ml) was added slowly and stirring continued for 15 minutes. The resulting solution was made basic (pH˜9) with 2N NaOH. The cloudy solution was extracted with EtOAc and the organic layer washed with water. Removal of the solvent in vacuo, gave 69% (252 mg) of the product as a solid which was used without further purification: 1H-NMR (CDCl3) δ 0.96 (4H, m), 1.08 (3H, t, J=7.1 Hz), 1.47 (1H, m), 1.76 (2H, d, J=12.1 Hz), 1.90 (2H, m), 2.37 (2H, m), 2.63 (2H, q, J=7.0 Hz), 3.05 (2H, t, J=5.7 Hz), 3.11 (2H, t, J=5.1 Hz), 4.28 (2H, t, J=5.2 Hz), 5.73 (1H, broad t), 6.96 (1H, dd, J=0.9 Hz, 7.7 Hz), 7.10 (2H, m), 8.22 (1H, dd, J=1.3 Hz, 7.6 Hz); 358 (ESMS, MH+).

reactant | N1-{4-[(4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-ylamino)methyl]cyclohexyl}acetamide | 1.02 mmol, 0.380 g | N1=C(SC2=C1C1=C(OCC2)C=CC=C1)NCC1CCC(CC1)NC(C)=O | C20H25N3O2S
reactant | HCl | 4N, 12 ml | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 5.0 mmol, 5.0 ml | C1CCOC1 | C4H8O
product | N2-{[4-(Ethylamino)cyclohexyl]methyl}-4,5-dihydrobenzo-[2,3]oxepino[4,5-d][1,3]thiazol-2-amine | 252 mg, 69% | C(C)NC1CCC(CC1)CNC=1SC2=C(N1)C1=C(OCC2)C=CC=C1 | C20H27N3OS
